US04618627
A mixture of 0.5 g of 6-(3,4-dibenzyloxyphenyl)hexyl bromide, 0.12 g of acetylacetone, 0.15 g of potassium carbonate, 0.02 g of sodium iodide, and 5 ml of ethanol was refluxed for 20 hours. To the reaction mixture was added 15 ml of water and the product was extracted with 20 ml of ether. The extract was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to provide a sticky product. The product was applied to silica gel (45 ml) column chromatography and eluted with a mixture of toluene and ethyl acetate (30:1) to provide 33 mg of 9-(3,4-dibenzyloxyphenyl)-2-nonanone as an oil.

reactant | 6-(3,4-dibenzyloxyphenyl)hexyl bromide | 0.5 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)CCCCCCBr | C26H29BrO2
reactant | acetylacetone | 0.12 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | potassium carbonate | 0.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.02 g | [I-].[Na+]
solvent | water | 15 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 9-(3,4-dibenzyloxyphenyl)-2-nonanone | 33 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)CCCCCCCC(C)=O | C29H34O3
